US06703387B2
A few drops of a saturated solution of hydrogen chloride in diethyl ether were added to a solution of 15 mg (0.033 mmol) (tert-butyl (E)-[2-[4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)-vinyl]-benzamido]ethyl)]carbamate. The mixture was stirred at room temperature for 16 hours and the resultant solid filtered off, dissolved in methanol and evaporated. There was obtained 8 mg of N-(2-aminoethyl)-4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)vinyl]benzamide hydrochloride as a dark red gum MS: m/e 349.0 [M+H]+.

reactant | hydrogen chloride | Cl | ClH
reactant | (tert-butyl (E)-[2-[4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)-vinyl]-benzamido]ethyl)]carbamate | 0.033 mmol, 15 mg | C(C)(C)(C)C(CNC([O-])=O)NC(C1=CC=C(C=C1)\C=C\C1=NCCN(C2=C1C=CC=C2)C)=O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2-aminoethyl)-4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)vinyl]benzamide hydrochloride | 8 mg | Cl.NCCNC(C1=CC=C(C=C1)C=CC1=NCCN(C2=C1C=CC=C2)C)=O | InChI=1S/C21H24N4O.ClH/c1-25-15-14-23-19(18-4-2-3-5-20(18)25)11-8-16-6-9-17(10-7-16)21(26)24-13-12-22;/h2-11H,12-15,22H2,1H3,(H,24,26);1H
